US04943675
Into a 500 ml reaction flask equipped with a stirrer, a thermometer and a condenser, 200 ml of dimethylformamide, 13.8 g (0.1 mol) of potassium carbonate, 39.6 g (0.2 mol) of phenylguanidine nitrate and 33.6 g (0.2 mol) of dehydroacetic acid were charged, and the reaction was conducted at 140° C. for 3 hours. After completion of the reaction, the reaction solution was cooled and put into ice water. Then, the reaction solution was extracted with toluene and washed with water. Then, 21 g (0.2 mol) of concentrated hydrochloric acid was dropwise added thereto. Precipitated crystals were collected by filtration, washed with toluene, then neutralized with an aqueous sodium carbonate solution and again extracted with toluene. This toluene layer was washed with water and concentrated to obtain 24.1 g of 2-anilino-4-methyl-6-acetonyl-pyrimidine having a melting point of from 77° to 80° C. The yield was 50%.

reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylguanidine nitrate | 0.2 mol, 39.6 g | [N+](=O)(O)[O-].C1(=CC=CC=C1)NC(=N)N
reactant | dehydroacetic acid | 0.2 mol, 33.6 g | CC1=CC(=O)C(C(=O)O1)C(=O)C | C8H8O4
reactant | hydrochloric acid | 0.2 mol, 21 g | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-anilino-4-methyl-6-acetonyl-pyrimidine | 24.1 g, yield was 50% | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)CC(=O)C | C14H15N3O
